US05075304
5-(4-azidobenzyl)-3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4,5-dihydro-4-oxo-imidazo[1,5-a]quinoxaline (Compound 34)
To a stirred solution of 5-(4-aminobenzyl)-3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4,5-dihydro-4-oxo-imidazo[1,5-a]quinoxaline (0.1 g, 0.25 mmol) in trifluoroacetic acid (3 ml) at 0° C. was added sodium nitrite (0.1 g, 1.4 mmol). After 5 min. sodium azide (0.16 g, 2.5 mmol) was added. Stirring was continued for 1 h. Then water (20 ml) was added, and the mixture was extracted twice with dichloromethane (20 ml). The combined extracts were dried over sodium sulphate and evaporated to give the title compound as a pale yellow solid, m.p. 183°-184° C. (dec.). Chromatographic purification (SiO2)/CH2Cl2 -acetone 4:1) gave crystals with m.p. 194°-197° C. (dec.).

reactant | 5-(4-aminobenzyl)-3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4,5-dihydro-4-oxo-imidazo[1,5-a]quinoxaline | 0.25 mmol, 0.1 g | NC1=CC=C(CN2C(C=3N(C4=CC=CC=C24)C=NC3C3=NOC(=N3)C3CC3)=O)C=C1 | C22H18N6O2
reactant | sodium nitrite | 1.4 mmol, 0.1 g | N(=O)[O-].[Na+]
reactant | sodium azide | 2.5 mmol, 0.16 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(4-azidobenzyl)-3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4,5-dihydro-4-oxo-imidazo[1,5-a]quinoxaline | N(=[N+]=[N-])C1=CC=C(CN2C(C=3N(C4=CC=CC=C24)C=NC3C3=NOC(=N3)C3CC3)=O)C=C1 | C22H16N8O2
